US06545017B1
Triethylamine (0.78 mL, 5.6 mmol) was added to a solution of 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine (1.00 g, 4.3 mmol) in chloroform (50 mL). The solution was cooled in an ice bath and then 4-morpholinecarbonyl chloride (0.55 mL, 4.7 mmol) was added. After 15 minutes the reaction mixture was removed from the ice bath and allowed to stir at ambient temperature for 2 days. The reaction mixture was diluted with water (30 mL) and the pH was adjusted to 11 with potassium carbonate. The resulting precipitate was isolated by filtration and then recrystallized from isopropanol/water to provide 0.61 g of N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]morpholine-4-carboxamide as a white solid, m.p. 128.9-129.7° C. Analysis: Calculated for C17H26N6O2.1.00 H2O: %C, 56.03; %H, 7.74; %N, 23.06; Found: %C, 56.10; %H, 7.92; %N, 23.31. 1H NMR (Bruker 300 MHz, DMSO-d6) δ6.63 (t, J=4.9 Hz, 1H), 5.56 (s, 2 H), 4.19 (t, J=8.1 Hz, 2 H), 3.53 (t, J=4.4 Hz, 4 H), 3.25 (t, J=4.9 Hz, 4 H), 3.14 (q, J=6.2 Hz, 2 H), 2.45 (s, 3 H), 2.35 (s, 3 H), 2.29 (s, 3 H), 1.81 (p, J=7.4 Hz, 2 H). MS(CI) m/e 347 (M+H).

reactant | Triethylamine | 5.6 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 4.3 mmol, 1.00 g | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C12H19N5
reactant | 4-morpholinecarbonyl chloride | 4.7 mmol, 0.55 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]morpholine-4-carboxamide | 0.61 g | NC1=NC(=C(C2=C1N=C(N2CCCNC(=O)N2CCOCC2)C)C)C | C17H26N6O2
